US05166367
7-[3-[[(2,3-Dihydro-6-phenylmethoxy-1,4-benzodioxin-2-yl)methyl]amino]propoxy]-2H-1-benzopyran-2-one
2,3-Dihydro-6-benzyloxy-1,4-benzodioxin-2-methanamine (2.4 g, 8.85 mmole), 7-(3-chloropropoxy)coumarin (2.15 g, 9.0 mmole), diisopropylethylamine (7.0 ml, 40.2 mmole) and sodium iodide (1.35 g, 9.0 mmole) were combined in 200 ml of DMF and heated at 108° C. for 2 days under a nitrogen atmosphere. The solvent was then removed and replaced with dichloromethane. The mixture was washed with an equal volume of water dried over magnesium sulfate, filtered, and concentrated in vacuum. The residue was column chromatographed on silica gel using 1% methanol/dichloromethane as eluant. The product-containing fractions (Rf=0.27 on silica gel tlc with 2.5% methanol/dichloromethane) were combined and concentrated in vacuum and the residue redissolved in dichloromethane and boiled on a hot plate, the solvent gradually being replaced with isopropanol. Upon addition of 6 ml of 4N HCl/isopropanol and cooling, 1.22 g of the title compound, m.p. 184°-187° C., precipitated as a beige solid, monohydrochloride.

reactant | 2,3-Dihydro-6-benzyloxy-1,4-benzodioxin-2-methanamine | 8.85 mmole, 2.4 g | C(C1=CC=CC=C1)OC1=CC2=C(OC(CO2)CN)C=C1 | C16H17NO3
reactant | 7-(3-chloropropoxy)coumarin | 9.0 mmole, 2.15 g | ClCCCOC1=CC=C2C=CC(OC2=C1)=O | C12H11ClO3
reactant | diisopropylethylamine | 40.2 mmole, 7.0 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium iodide | 9.0 mmole, 1.35 g | [I-].[Na+]
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 7-[3-[[(2,3-Dihydro-6-phenylmethoxy-1,4-benzodioxin-2-yl)methyl]amino]propoxy]-2H-1-benzopyran-2-one | C1(=CC=CC=C1)COC1=CC2=C(OC(CO2)CNCCCOC2=CC3=C(C=CC(O3)=O)C=C2)C=C1 | C28H27NO6
